US05859088
1-Hexene/propylene copolymer (S-3)
The procedure used for the preparation of copolymer S-2 was repeated except that 1-hexene was replaced with 1 -octene. A tacky amorphous polymer was obtained in 56% conversion having an inherent viscosity of 4.2 dL/g in n-hexane and a Tg of -51° C. It contained 89 mole percent of 1-octene and 11 mole percent of ethylene.

reactant | 1-hexene | C=CCCCC | C6H12
reactant | octene | C=CCCCCCC | C8H16
reactant | ethylene | C=C | C2H4
solvent | n-hexane | CCCCCC | C6H14
product | 1-Hexene propylene | C=CCCCC.C=CC | InChI=1S/C6H12.C3H6/c1-3-5-6-4-2;1-3-2/h3H,1,4-6H2,2H3;3H,1H2,2H3
